US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-hydroxyethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride
To a stirred solution of 3-{[(2-hydroxyethyl)(methyl)amino]methyl}-5-methylbenzoic acid (140 mg, 0.56 mmol) in methylene chloride (3 mL) is added HBTU (318 mg, 0.84 mmol), HOBt (114 mg, 0.84 mmol), and N,N-diisopropylethylamine (0.284 mL, 1.68 mmol), followed by (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method of EXAMPLE SP-272 (228 mg, 0.56 mmol). The reaction mixture is stirred for 24 h at room temperature, diluted with methylene chloride, washed with water, and saturated sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (10% methanol/chloroform) affords a clear oil, which is dissolved in methanol (2 mL). To this is added hydrochloric acid (5 mL of a 4 N solution in dioxane, 20 mmol), and the reaction mixture is stirred for 1 h at room temperature. The reaction mixture is diluted with ethyl ether (10 mL). The precipitate that is formed is collected by filtration to provide the title compound. ESI MS m/z 540.4 [M+H]+.

reactant | 3-{[(2-hydroxyethyl)(methyl)amino]methyl}-5-methylbenzoic acid | 0.56 mmol, 140 mg | OCCN(C)CC=1C=C(C(=O)O)C=C(C1)C | C12H17NO3
reactant | HBTU | 0.84 mmol, 318 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.84 mmol, 114 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.68 mmol, 0.284 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-{[(2-hydroxyethyl)(methyl)amino]methyl}-5-methylbenzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC(=C2)C)CN(C)CCO)=O)C=C(C1)F | InChI=1S/C31H39F2N3O3.2ClH/c1-4-22-6-5-7-23(12-22)18-34-19-30(38)29(16-24-14-27(32)17-28(33)15-24)35-31(39)26-11-21(2)10-25(13-26)20-36(3)8-9-37;;/h5-7,10-15,17,29-30,34,37-38H,4,8-9,16,18-20H2,1-3H3,(H,35,39);2*1H/t29-,30+;;/m0../s1
